US04395406
1-Carboxymethyl-5-chloropyrimid-2-one
A solution made from 5-chloropyrimid-2-one (0.015 mol), aqueous 0.78 M KOH (45 ml) and chloroacetic acid (0.018 mol) was heated under reflux until the pH had fallen to below 8. The solution was then concentrated to a small volume at reduced pressure. Addition of 1 N HCl (15 ml) caused the product to crystallize; yield 47%, m.p. 186°-188° C. (acetone). (Found: C, 38.35; H, 2.69. Calc. for C6H5ClN2O3 : C, 38.23; H, 2.67).

reactant | 5-chloropyrimid-2-one | 0.015 mol | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | KOH | 0.78 M, 45 ml | [OH-].[K+]
reactant | chloroacetic acid | 0.018 mol | ClCC(=O)O | C2H3ClO2
product | 1-Carboxymethyl-5-chloropyrimid-2-one | yield 47% | C(=O)(O)CN1C(N=CC(=C1)Cl)=O | C6H5ClN2O3
